US08729104B2
Step A: Preparation of methyl 4-(1-hydroxy-1,2-dimethylpropyl)benzoate (i-2a)
Isopropyl magnesium chloride (12.0 mL of a 2 M solution in THF, 24.0 mmol) was added to a solution of methyl 4-iodobenzoate (5.24 g, 20.0 mmol) in THF (50 mL) at −40° C. After 1 h, a second portion of isopropyl magnesium chloride (5.00 ml, of a 2 M solution in THF, 10.0 mmol) was added and the resulting mixture allowed to stir at −40° C. for 4 h. 3-Methyl-2-butanone (2.10 mL, 19.6 mmol) was then added and the resulting mixture allowed to warm to room temperature overnight. The reaction mixture was poured into 1 N HCl and extracted three times with EtOAc. The combined organic extracts were washed water, brine, dried (MgSO4) and concentrated in vacuo. Purification of the crude residue by flash chromatography on silica gel (gradient elution; 0%-20% EtOAc/hexanes as eluent) afforded the title compound i-2a. 1HNMR (500 MHz, CDCl3): δ 8.02 (d, 2H, J=8.5 Hz), 7.52 (d, 2H, J=8.5 Hz), 3.95 (s, 3H), 2.05 (p, 1H, J=6.6 Hz), 1.57 (s, 3H), 0.95 (d, 3H, J=6.6 Hz), 0.80 (d, 3H, J=6.9 Hz).

reactant | Isopropyl magnesium chloride | C(C)(C)[Mg]Cl
reactant | methyl 4-iodobenzoate | 20.0 mmol, 5.24 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | 3-Methyl-2-butanone | 19.6 mmol, 2.10 mL | CC(C(C)=O)C | C5H10O
reactant | HCl | 1 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | methyl 4-(1-hydroxy-1,2-dimethylpropyl)benzoate | OC(C(C)C)(C)C1=CC=C(C(=O)OC)C=C1 | C13H18O3
